US05852128
Preparation of 2-methanecarbonyloxyethyl vinyl ether
In a 1 L three neck flask fitted with a thermometer, a dropping funnel and a mechanical stirrer, there was added 1 mol (81.0 g) of ethylene glycol monovinyl ether and 1.05 mol (106.26 g) of triethylamine and 300 mL of tetrahydrofuran(THF). The mixture was cooled to 10°-15° C. using an ice-bath. To the cooled solution, there was added 1.05 mol (84.93 g) of acetyl chloride drop by drop over two hours such that the temperature of the reaction mixture was maintained below 15° C. and the reaction mixture was stirred constantly. After 10 hours of reaction, 500 mL of diethyl ether followed by 500 mL of deionized water was added to the reaction mixture. The organic layer was washed three times with 300 mL of deionized water, and dried using anhydrous magnesium sulfate for 24 hours. The dried organic layer was separated by filtration and diethyl ether was distilled off to obtain the crude product. It was purified by two subsequent distillations under reduced pressure. The compound has a boiling point of 33°-35° C./1 torr, 115°-116° C./20 torr. The yield after purification was 110.7 g (90%). The compound was characterized by IR and NMR. The infrared spectrum shows a strong peak at 1745 cm-1 (νc=0) and the NMR spectra has signals at2.1 ppm(3H), 3.89 ppm(2H), 4.05 ppm(1H), 4.22 ppm(1H), 4.3 ppm(2H), and 6.25 ppm(1H) confirming that the isolated compound is indeed 2-methanecarbonyloxyethyl vinyl ether.

reactant | ethylene glycol monovinyl ether | 1 mol, 81.0 g | C(=C)OCCO | C4H8O2
reactant | triethylamine | 1.05 mol, 106.26 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.05 mol, 84.93 g | C(C)(=O)Cl | C2H3ClO
reactant | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | water | 500 mL | O | H2O
product | 2-methanecarbonyloxyethyl vinyl ether | C(=C)OCCOC(=O)C | C6H10O3
